US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
To a mixed solution of tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (308 mg), pentane-1,5-diol (1.25 g) and triphenylphosphine (472 mg) in toluene (10 ml)-THF (10 ml) was added diisopropyl azodicarboxylate (910 μl) at room temperature, and the mixture was stirred at the same temperature for 15 hr. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (250 mg).

reactant | tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 308 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | pentane-1,5-diol | 1.25 g | C(CCCCO)O | C5H12O2
reactant | triphenylphosphine | 472 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 910 μl | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Tert-butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 250 mg | OCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
